US05606037
1-t-Butyl dimethylsilyloxy-3-trifluoroacetamido-4-O-bromoacetyl-2,3,6-trideoxy-L-lyxohexopyranose
To a stirred solution of 1-t-butyl dimethylsilyloxy-3-trifluoroacetamido-2,3,6-trideoxy-L-lyxohexopyranose (81 mg, 0.18 mmol) in CH2Cl2 (2 ml) at 0° C. were added collidine (47 μl, 0.36 mmol), and bromoacetylbromide (24 μl, 0.27 mmol). After 1 hour, the reaction mixture was worked up with CH2Cl2 and water. The organic layer was washed with brine and dried over MgSO4. The solvent was evaporated to give the titled compound (76 mg, 74%).

reactant | 1-t-butyl dimethylsilyloxy-3-trifluoroacetamido-2,3,6-trideoxy-L-lyxohexopyranose | 0.18 mmol, 81 mg | [Si](C)(C)(C(C)(C)C)OC1(O)C[C@@H]([C@H](O)[C@@H](O1)C)NC(C(F)(F)F)=O | C14H26F3NO5Si
reactant | collidine | 0.36 mmol, 47 μl | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | bromoacetylbromide | 0.27 mmol, 24 μl | BrCC(=O)Br | C2H2Br2O
reactant | water | O | H2O
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 1-t-Butyl dimethylsilyloxy-3-trifluoroacetamido-4-O-bromoacetyl-2,3,6-trideoxy-L-lyxohexopyranose | 76 mg, 74% | [Si](C)(C)(C(C)(C)C)OC1(O)C[C@@H]([C@H](OC(CBr)=O)[C@@H](O1)C)NC(C(F)(F)F)=O | C16H27BrF3NO6Si
